US06787544B2
In a nitrogen atmosphere, 0.5 g of 5-amino-3-methoxy-2-pyrazinecarboxamide is dissolved in 9 mL of 70% pyridine hydrofluoride under ice-cooling. Then, 0.23 g of sodium nitrite is added thereto at −70° C., and the resulting solution is heated to a temperature of −10° C. in 30 minutes. Further, the solution is stirred at ambient temperature for 30 minutes. A mixture of 30 mL of ice water and 100 mL of chloroform is added thereto and the resulting mixture is separated into layers. The organic layer is washed with saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate. The solvent is distilled off under reduced pressure. The residue thus obtained is purified by column chromatography (eluent: chloroform:methanol =10:1) to obtain 0.37 q of 5-fluoro-3-methoxy-2-pyrazinecarboxamide.

reactant | 5-amino-3-methoxy-2-pyrazinecarboxamide | 0.5 g | NC=1N=C(C(=NC1)C(=O)N)OC | C6H8N4O2
reactant | sodium nitrite | 0.23 g | N(=O)[O-].[Na+]
reactant | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
reactant | pyridine hydrofluoride | 9 mL | F.N1=CC=CC=C1
product | 5-fluoro-3-methoxy-2-pyrazinecarboxamide | FC=1N=C(C(=NC1)C(=O)N)OC | C6H6FN3O2
